US04205069
H-Tyr-D-Met-NH2
Prepared by solid phase using benzhydryl amine resin (14 g.) and t-Boc-D-Met-OH (10 g.) 5.4 g. hydroxybenzotriazole and 60 ml. DIC, deprotected with 30% TFA in MeCl2 and coupled with 18 g. t-Boc di Cl Bzl-Tyr-OH and 5.4 g. hydroxybenzotriazole and 6.0 ml. DIC. Deprotection with HF in the presence of 10 ml. anisole. The dipeptide was purified on Sephadex G-10 using 0.2 N HOAc.

reactant | benzhydryl amine | 14 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | t-Boc-D-Met-OH | 10 g | N([C@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4S
reactant | hydroxybenzotriazole | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | MeCl2 | C(Cl)Cl | CH2Cl2
product | H-Tyr-D-Met-NH2 | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)N | C14H21N3O3S
